US08114867B2
51.iv. (S)-3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-oxo-oxazolidine-5-carboxylic acid
To a solution of intermediate 1.i (985 mg, 3.92 mmol) in 1:1 water/MeCN (20 mL) cooled to 0° C. was added diacetoxyiodobenzene (2.83 g, 8.62 mmol)) and TEMPO (122 mg, 0.78 mmol). The mixture was stirred at 0° C. for 30 min and at rt overnight. EA and sat. Na2CO3 were added and the phases separated. The aq. layer was washed once more with EA and then carefully (!) acidified with 1M HCl. The water phase was then extracted twice with EA. The combined org. layers were washed with brine and dried over MgSO4 and concentrated to afford the title acid as a white solid (847 mg, 81% yield).

reactant | water MeCN | 20 mL | O.CC#N
reactant | diacetoxyiodobenzene | 8.62 mmol, 2.83 g | C(C)(=O)OC=1C(=C(C=CC1)I)OC(C)=O | C10H9IO4
reactant | TEMPO | 0.78 mmol, 122 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EA | CC(OCC)=O | C4H8O2
product | (S)-3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-oxo-oxazolidine-5-carboxylic acid | 847 mg, 81% yield | O1CCOC2=C1C=CC(=C2)N2C(O[C@@H](C2)C(=O)O)=O | C12H11NO6
